US05616586
9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (1.15 g, 3.26 mmol) in a mixture of THF (5 mL), DMF (10 mL), and acetic acid (8 mL) was hydrogenated over palladium on carbon (300 mg) under atmospheric pressure of hydrogen at room temperature for 5 h. The mixture was passed through celite and concentrated. The residue was purified by silica gel column chromatography with ethyl acetate to give 700 mg of 5-methoxycarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]-quinoxaline-2,3-dione (79%): 227°~229° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ12.00 (bs, 1H), 6.97~7.12 (m, 2H), 5.06~5.16 (m, 1H), 3.63 (s, 3H), 2.97 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.79 (dm, 1H, J=17.1 Hz), 2.54~2.69 (m, 2H), 2.12 (dm, 1H, J=13.5 Hz), 1.82~2.00 (m, 1H).

reactant | 9-Bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 3.26 mmol, 1.15 g | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13BrN2O4
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 5-methoxycarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]-quinoxaline-2,3-dione | 700 mg, 79% | CONC(=O)CC1CCC=2C=3N1C(C(NC3C=CC2)=O)=O | C14H15N3O4
